US08420632B2
A solution of 1.45 g (3.4 mmol) of benzyl 4-((S)-2-tert-butoxycarbonylamino-1-methoxycarbonylethyl)piperazine-1-carboxylate in 3.5 ml of a solution of hydrochloric acid in isopropanol, having a concentration 5-6N, and 10 ml of methanol is heated at 40° C. for 3 h and then evaporated. The residue is taken up in diethyl ether and filtered. 1.2 g (90%) of benzyl 4-(2-amino-1-methoxycarbonylethyl)piperazine-1-carboxylate dihydrochloride are obtained in the form of a solid.

reactant | benzyl 4-((S)-2-tert-butoxycarbonylamino-1-methoxycarbonylethyl)piperazine-1-carboxylate | 3.4 mmol, 1.45 g | C(C)(C)(C)OC(=O)NC[C@@H](C(=O)OC)N1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C21H31N3O6
reactant | hydrochloric acid | Cl | ClH
reactant | methanol | 10 ml | CO | CH4O
solvent | isopropanol | C(C)(C)O | C3H8O
product | benzyl 4-(2-amino-1-methoxycarbonylethyl)piperazine-1-carboxylate dihydrochloride | 1.2 g, 90% | Cl.Cl.NCC(C(=O)OC)N1CCN(CC1)C(=O)OCC1=CC=CC=C1 | InChI=1S/C16H23N3O4.2ClH/c1-22-15(20)14(11-17)18-7-9-19(10-8-18)16(21)23-12-13-5-3-2-4-6-13;;/h2-6,14H,7-12,17H2,1H3;2*1H
